US06410529B1
101. 1-(3-Aminophenyl)-3-quinolin-4-ylurea
1-(3-Nitrophenyl)-3-quinolin-4-ylurea (0.775 g) was suspended in ethanol (150 ml) containing 10% Pd/C (0.75 g paste) and shaken under a hydrogen atmosphere (50 psi) at room temperature. After 3 h the mixture was filtered (celite pad) and the residue washed with ethanol. The combined filtrate and washings were evaporated to dryness under reduced pressure and the residue triturated with diethyl ether/hexane to give the title compound (0.54 g).

reactant | 1-(3-Nitrophenyl)-3-quinolin-4-ylurea | 0.775 g | [N+](=O)([O-])C=1C=C(C=CC1)NC(=O)NC1=CC=NC2=CC=CC=C12 | C16H12N4O3
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.75 g | [Pd] | Pd
product | 1-(3-Aminophenyl)-3-quinolin-4-ylurea | 0.54 g | NC=1C=C(C=CC1)NC(=O)NC1=CC=NC2=CC=CC=C12 | C16H14N4O
